US04282212
1-(N-Chloroacetyl-carbamoyl)-2-cyano-3-phenyl-aziridine.
1 g. Crude 2-cyano-3-phenyl-aziridine is dissolved in 25 ml. anhydrous diethyl ether. A solution of 0.83 g. chloroacetyl isocyanate in 3.5 ml. diethyl ether is added thereto dropwise, while stirring, and the reaction mixture is further stirred for 1 hour at ambient temperature. The precipitate obtained is then filtered off with suction, washed with diethyl ether and dried in a vacuum. There is thus obtained 1.24 g. 1-(N-chloroacetyl-carbamoyl)-2-cyano3-phenyl-aziridine; m.p. 153°-158°-165° C. According to the NMR spectrum, the product is an isomeric mixture containing about 30% of the trans form and about 70% of the cis form.

reactant | 2-cyano-3-phenyl-aziridine | C(#N)C1NC1C1=CC=CC=C1 | C9H8N2
reactant | chloroacetyl isocyanate | ClCC(=O)N=C=O | C3H2ClNO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N-Chloroacetyl-carbamoyl)-2-cyano-3-phenyl-aziridine | ClCC(=O)NC(=O)N1C(C1C1=CC=CC=C1)C#N | C12H10ClN3O2
